US04462992
1-(Tetrahydro-2-furanyl)-2-nitroimidazole
A suspension of 0.338 g (3.0 mmol) of 2-nitroimidazole and 0.7 ml of 2,3-dihydrofuran in 35 ml of acetonitrile was stirred at 35°-45° C. in the presence of 5 mg of p-toluenesulfonic acid for 2 hr. under nitrogen and then evaporated. The residue was dissolved in chloroform, filtered, and evaporated to yield a syrup which was purified by preparative TLC with ethyl acetate-benzene (1:1) to provide 0.41 g (75.3%) of the title compound, mp 91° C.

reactant | 2-nitroimidazole | 3.0 mmol, 0.338 g | [N+](=O)([O-])C=1NC=CN1 | C3H3N3O2
reactant | 2,3-dihydrofuran | 0.7 ml | O1CCC=C1 | C4H6O
reactant | p-toluenesulfonic acid | 5 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | acetonitrile | 35 ml | C(C)#N | C2H3N
product | 1-(Tetrahydro-2-furanyl)-2-nitroimidazole | 0.41 g, 75.3% | O1C(CCC1)N1C(=NC=C1)[N+](=O)[O-] | C7H9N3O3
